US04529549
7-guanidino-3(S)-acetoxyheptanoic acid
3.55 g (14.8 mmols) of 7-guanidino-3(S)-hydroxyheptanoic acid was dissolved in 100 ml of glacial acetic acid, and hydrogen chloride gas was introduced to saturation at a temperature lower than room temperature. The reaction mixture was stirred for 2 hours at room temperature, and concentrated under reduced pressure. The above procedure was carried out two more times, and the residue was sufficiently dried to obtain the desired product in a quantitative yield.

reactant | 7-guanidino-3(S)-hydroxyheptanoic acid | 14.8 mmols, 3.55 g | N(C(=N)N)CCCC[C@@H](CC(=O)O)O | C8H17N3O3
reactant | hydrogen chloride | Cl | ClH
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 7-guanidino-3(S)-acetoxyheptanoic acid | quantitative yield | N(C(=N)N)CCCC[C@@H](CC(=O)O)OC(C)=O | C10H19N3O4
